US05250517
A mixture of 83 mg (0.345 mmol) of dibenzylacetic acid, 90 mg (0.23 mmol) of (S)-α-amino-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2 -hydroxy-4-isopropyl-5-hexenyl]-imidazole-4-propionamide. 0.045 ml (0.345 mmol) of 4-ethylmorpholine, 93 mg (0.69 mmol) of HOBT and 85 mg (0.41 mmol) of DCC in 15 ml of dimethylformamide was stirred at room temperature overnight. Thereafter, the separated precipitate was filtered off and the filtrate was evaporated to dryness. The residue was then dissolved in ethyl acetate and the solution was washed in succession with 2N sodium bicarbonate solution, saturated ammonium chloride solution, again with 2N sodium bicarbonate solution and again with saturated ammonium chloride solution, dried over sodium sulfate and evaporated. The residue was chromatographed on 30 g of silica gel with a 14:1:0.1 mixture of methylene chloride, methanol and ammonia. Crystallization of the residue from methylene chloride/methanol/hexane yielded 60 mg of (S)-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2 -hydroxy-4-isopropyl-5-hexenyl]-α-(2,2-dibenzylacetamido)imidazole-4-propionamide, melting point 98°.

reactant | dibenzylacetic acid | 0.345 mmol, 83 mg | C(C1=CC=CC=C1)C(C(=O)O)CC1=CC=CC=C1 | C16H16O2
reactant | (S)-α-amino-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2 -hydroxy-4-isopropyl-5-hexenyl]-imidazole-4-propionamide | 0.23 mmol, 90 mg | N[C@H](C(=O)N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1CCCCC1)CC=1N=CNC1 | C22H38N4O2
reactant | 4-ethylmorpholine | 0.345 mmol, 0.045 ml | C(C)N1CCOCC1 | C6H13NO
reactant | HOBT | 0.69 mmol, 93 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 0.41 mmol, 85 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (S)-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2 -hydroxy-4-isopropyl-5-hexenyl]-α-(2,2-dibenzylacetamido)imidazole-4-propionamide | 60 mg | C1(CCCCC1)C[C@@H]([C@H](C[C@H](C=C)C(C)C)O)NC([C@H](CC=1N=CNC1)NC(C(CC1=CC=CC=C1)CC1=CC=CC=C1)=O)=O | C38H52N4O3
